US04206225
2-(2,5-Dihydroxyphenyl)propyl 2-Phenylethyl Ether
A mixture of 2-(2,5-dimethoxyphenyl)propyl 2-phenylethyl ether (195 mg., 0.65 mM), pyridine (0.4 ml., 4.96 mM) and dry pyridine hydrochloride (4 g., 34.6 mM) is heated at 190° C. for 6 hours. The reaction mixture is cooled and added to a mixture of water (100 ml.) and ether (150 ml.). The ether extract is washed once with water (50 ml.) and, along with a second ether extract (50 ml.) of the aqueous phase, is dried over magnesium sulfate and evaporated to dryness. The residue is purified via preparative layer chromatography on silica gel plates by elution with ether-pentane.

reactant | 2-(2,5-dimethoxyphenyl)propyl 2-phenylethyl ether | 0.65 mM, 195 mg | C1(=CC=CC=C1)CCOCC(C)C1=C(C=CC(=C1)OC)OC | C19H24O3
reactant | pyridine | 4.96 mM, 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine hydrochloride | 34.6 mM, 4 g | Cl.N1=CC=CC=C1
reactant | water | 100 ml | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-(2,5-Dihydroxyphenyl)propyl 2-Phenylethyl Ether | C1(=CC=CC=C1)CCOCC(C)C1=C(C=CC(=C1)O)O | C17H20O3
